US07199147B2
To a solution of 1-(methylsulfonyl)-5-nitro-1H-indazole (1.00 g, 4.15 mmol) in ethanol (20 ml) were added 10% Pd-C (100 mg) and then ammonium formate (1.57 g, 24.9 mmol), and the resulting mixture was heated under reflux for 1 hour. The solid was removed by filtration using Celite, and the solvent was distilled off under reduced pressure. Ethyl acetate/water was added to the residue, followed by extraction with ethyl acetate, and the extract solution was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, and then distilled under reduced pressure to remove the solvent, whereby 1-(methylsulfonyl)-1H-indazol-5-amine (425 mg, 49%) was obtained.

reactant | 1-(methylsulfonyl)-5-nitro-1H-indazole | 4.15 mmol, 1.00 g | CS(=O)(=O)N1N=CC2=CC(=CC=C12)[N+](=O)[O-] | C8H7N3O4S
reactant | ammonium formate | 24.9 mmol, 1.57 g | C(=O)[O-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd-C | 100 mg | [Pd] | Pd
product | 1-(methylsulfonyl)-1H-indazol-5-amine | 425 mg, 49% | CS(=O)(=O)N1N=CC2=CC(=CC=C12)N | C8H9N3O2S
